US07592358B2
12.1a. 1-[5-bromo-2-(2-hydroxyethoxy)phenyl]ethanone
The product was prepared analogously to Example 1.1a starting from 1-(5-bromo-2-hydroxyphenyl)ethanone. Yield: 7.30 g (30% of theoretical); C10H11BrO3 (M=259.097); calc.: molpeak (M+H)+: 259/261 (Br); found: molpeak (M+H)+: 259/261 (Br); Rf value: 0.25 (silica gel, PE/EtOAc 1:1).

reactant | 1-(5-bromo-2-hydroxyphenyl)ethanone | BrC=1C=CC(=C(C1)C(C)=O)O | C8H7BrO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[5-bromo-2-(2-hydroxyethoxy)phenyl]ethanone | BrC=1C=CC(=C(C1)C(C)=O)OCCO | C10H11BrO3
